US09216980B2
Preparation of 1-(5-Tributylstannanylthiazol-2-ylmethyl)-piperidine
To a cold (−78° C.) solution of 1-thiazol-2-ylmethylpiperidine (2.73 g, 15.0 mmol) anhydrous THF (100 mL) was added n-butyllithium (8.95 mL, 16.5 mmol). After 30 minutes, a solution of tributyltin chloride (4.93 mL, 18.2 mmol) in anhydrous THF (40 mL) was to the reaction mixture. After 10 minutes, the solution was allowed to warm to ambient temperature and saturated aqueous sodium hydrogen carbonate was added. The aqueous phase was extracted with tert-butylmethyl ether (3×50 mL). The combined organic phase was dried over anhydrous sodium sulfate, filtered and evaporated in vacuo to afford a colourless oil that was then purified by flash chromatography (silica, 12 g column, ISCO, 0-40% ethyl acetate in cyclohexane) to afford the title compound as a colourless oil (5.1 g, 72%). 1H NMR (CDCl3, 400 MHz): 7.62 (t, J=6.4 Hz, 1H), 3.88 (s, 2H), 2.54-2.47 (m, 4H), 1.69-1.49 (m, 10H), 1.50-1.40 (m, 2H), 1.40-1.26 (m, 6H), 1.15-1.08 (m, 6H), 0.95-0.85 (m, 9H).

reactant | 1-thiazol-2-ylmethylpiperidine | 15.0 mmol, 100 mL, 2.73 g | S1C(=NC=C1)CN1CCCCC1 | C9H14N2S
reactant | n-butyllithium | 16.5 mmol, 8.95 mL | C(CCC)[Li]
reactant | tributyltin chloride | 18.2 mmol, 4.93 mL | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 1-(5-Tributylstannanylthiazol-2-ylmethyl)-piperidine | 5.1 g, 72% | C(CCC)[Sn](C1=CN=C(S1)CN1CCCCC1)(CCCC)CCCC | InChI=1S/C9H13N2S.3C4H9.Sn/c1-2-5-11(6-3-1)8-9-10-4-7-12-9;3*1-3-4-2;/h4H,1-3,5-6,8H2;3*1,3-4H2,2H3;
